US07098212B2
4-(5-Chloro-2-hydroxy-phenyl)-4-oxo-butyric acid ethyl ester
A solution of 4-(5-chloro-2-hydroxy-phenyl)-4-oxo-butyric acid (0.25 g, 1.09 mmol) in ethanol (10 mL) saturated with hydrogen chloride (g) was stirred at ambient temperature for 12 hours. The reaction was concentrated in vacuo, dissolved in diethyl ether and washed with saturated aqueous sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to give the title compound (0.259 g).

reactant | 4-(5-chloro-2-hydroxy-phenyl)-4-oxo-butyric acid | 1.09 mmol, 0.25 g | ClC=1C=CC(=C(C1)C(CCC(=O)O)=O)O | C10H9ClO4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(5-Chloro-2-hydroxy-phenyl)-4-oxo-butyric acid ethyl ester | 0.259 g | C(C)OC(CCC(=O)C1=C(C=CC(=C1)Cl)O)=O | C12H13ClO4
